US06982348B2
4) (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid
To a solution of ethyl (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate (6.08 g, 14.0 mmol) in methanol (30 ml) was added 2N aqueous sodium hydroxide solution (14 ml, 28 mmol), and the mixture was stirred at room temperature for 2 hrs. The reaction solution was acidified with 1N hydrochloric acid and extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave the objective substance (4.6 g, 81%).

reactant | ethyl (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoate | 14.0 mmol, 6.08 g | ClC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C20H19ClF4O4
reactant | sodium hydroxide | 28 mmol, 2N, 14 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | ClC=1C=C(C=CC1)C(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C18H15ClF4O4
